US06660872B1
Methyl 2-(2-Hydroxyphenyl)-2-methoxyimino-acetate (Example II-1g)
10.5 g of acetyl chloride (0.133 mol) are added dropwise to a mixture of 100 ml of methanol and 100 ml of acetone. 10 g (0.052 mol) of benzofuran-2,3-dione 3-(O-methyl-oxime) 2-oxime are dissolved in this mixture, and the reaction mixture is then stirred at room temperature for 12 hours. The mixture is poured into water and the product is extracted with ethyl acetate. The organic phase is washed with aqueous sodium bicarbonate solution and dried over sodium sulphate, and the solvent is distilled off under reduced pressure. This gives 9 g of crude product which, according to HPLC, contains 17.7% methyl E-2-(2-hydroxyphenyl)-2-methoxyimino-acetate of log p=1.48 and 61.8% methyl Z-2-(2-hydroxyphenyl)-2-methoxyimino-acetate of log p=2.38.

reactant | acetyl chloride | 0.133 mol, 10.5 g | C(C)(=O)Cl | C2H3ClO
reactant | methanol | 100 ml | CO | CH4O
reactant | acetone | 100 ml | CC(=O)C | C3H6O
reactant | benzofuran-2,3-dione 3-(O-methyl-oxime) 2-oxime | 0.052 mol, 10 g | CON=C1C(OC2=C1C=CC=C2)=NO | C9H8N2O3
solvent | water | O | H2O
product | Methyl 2-(2-Hydroxyphenyl)-2-methoxyimino-acetate | OC1=C(C=CC=C1)C(C(=O)OC)=NOC | C10H11NO4
